US06790860B2
9.07 g (20 mmol) of (2S,4R)-(1-methanesulfonyl-4-tritylsulfanyl-pyrrolidin-2-yl)-methanol and 9.5 ml (80 mmol) of benzylbromide were dissolved in 660 ml DMF, cooled to 0° C. and treated with 1.4 g (32 mmol) of 55% NaH over 15 min in 4 portions. The reaction was warmed up over night and treated with 4.75 ml (40 mmol) benzylbromide/700 mg (16 mmol) 55% NaH and 6 h later again with the same amount of benzylbromide/NaH. After further 16 h at room temperature the reaction was quenched with saturated NH4Cl solution/EtOAc (3×). The organic phase was washed with aqueous 10% NaCl soution, dried over Na2SO4 and evaporated to give 25 g crude product. Flash-chromatography on silica gel (Hexane/EtOAc 4:1 to 1:4) gave 6.43 g (59%) of (2S,4R)-2-benzyloxymethyl-1-methanesulfonyl-4-tritylsulfanyl-pyrrolidine, MS: 544 (MH+). 6.4 g (11.77 mmol) (2S,4R)-2-benzyloxymethyl-1-methanesulfonyl-4-tritylsulfanyl-pyrrolidine were dissolved in 170 ml TFA and treated at 0° C. with 18.75 ml (117.7 mmol) of triethylsilane. After 18 h at 0° C., the mixture was evaporated and purified by flash-chromatography on silica gel (Hexane/EtOAc 4:1 to 1:4) to give 2.66 g (72%) of (3R,5S)-5-benzyloxymethyl-1-methanesulfonyl-pyrrolidine-3-thiol, MS: 302 (MH+).

reactant | (2S,4R)-2-benzyloxymethyl-1-methanesulfonyl-4-tritylsulfanyl-pyrrolidine | 11.77 mmol, 6.4 g | C(C1=CC=CC=C1)OC[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C | C32H33NO3S2
reactant | triethylsilane | 117.7 mmol, 18.75 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 170 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3R,5S)-5-benzyloxymethyl-1-methanesulfonyl-pyrrolidine-3-thiol | 2.66 g, 72% | C(C1=CC=CC=C1)OC[C@@H]1C[C@H](CN1S(=O)(=O)C)S | C13H19NO3S2
